US05854247
Methane sulphonyl chloride (0.12 g, 1.07 mmol) was added to a solution of Intermediate 3 (0.2 g, 0.71 mmol) and triethylamine (0.143 g, 1.4 mmol) in CH2Cl2 /CH3CN (5 ml/5 ml), at 0° C. The mixture was warmed to room temperature and stirred for 1 h before adding ethyl acetate (30 ml) and washing the solution with saturated NaHCO3 solution (x1) and brine (x1). The organic was dried (MgSO4) and evaporated. To a solution of the resultant residue in IPA (25 ml) and CH3CN (3 ml) was added Intermediate 2 (0.36 g, 1.6 mmol) and Na2CO3 (0.12 g, 1.09 mmol). The mixture was heated at reflux for 8 h then cooled to room temperature and filtered. The solvent was removed under vacuum and the residue chromatographed on silica gel eluting with CH2Cl2 /MeOH/NH3 (90:8:1) to give the title-indole (0.208 g, 57%). The 2.0 hydrogen oxalate monohydrate salt was prepared, mp 213°-215° C., (Found: C, 52.54, H, 6.04, N, 9.50. C27 H37N5SO3. 2 (C2H2O4).1H2O requires C, 52.46, H, 6.11, N, 9.87%), m/e 511 (M)+, δ(360 MHz, D6 -DMSO) 1.88-2.00 (2H, m, CH2), 2.02 (3H, s, NHCOMe), 2.54 (3H, d, J=4.1 Hz, SO2NHMe), 2.68-3.12 (16H, m, 8 of CH2), 4.34 (2H, s, CH2), 6.79 (1H, br q, SO2NHMe), 7.09 (1H, dd, J=2.0 and 8.3 Hz, Ar-H), 7.15 (2H, d, J=8.5 Hz, Ar-H), 7.18 (1H, d, J=2.0 Hz, Ar-H), 7.33 (1H, d, J=8.3 Hz, Ar-H), 7.48 (2H, d, J=8.5Hz, Ar-H), 7.51 (1H, s, Ar-H), 9.87 (1H, s, NH), 10.89 (1H, s, NH).

reactant | Methane sulphonyl chloride | 1.07 mmol, 0.12 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.4 mmol, 0.143 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | Na2CO3 | 1.09 mmol, 0.12 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 CH3CN | 5 ml | C(Cl)Cl.CC#N
solvent | IPA | 25 ml | CC(C)O | C3H8O
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | indole | 0.208 g, 57% | N1C=CC2=CC=CC=C12 | C8H7N
